US06228893B1
To a solution of 1-(12-acetoxydodecyl)-2,6,6-trimethyl-1-cyclohexene (321 mg, 0.92 mmol, 1 eq.) in cyclohexane (6 ml) was added water (0.8 ml), ruthenium trichloride hydrate (0.7% mol, 1.3 mg) and 70% t-BuOOH (1.26 ml, 10 eq.). The solution was stirred at room temperature for 6 hours, filtered through a pad of celite and poured into a solution of 10% Na2SO3. The solution was extracted with ether, washed with brine, dried with MgSO4 and concentrated in vacuo. The residue was purified by chromatography over silica gel, eluting with hexane-AcOEt (95-15 to 90-10) to give 3-(12-acetoxydodecyl)-2,4,4-trimethyl-2-cyclohexen-1-one as a colorless oil (227 mg, 53%).

reactant | 1-(12-acetoxydodecyl)-2,6,6-trimethyl-1-cyclohexene | 0.92 mmol, 321 mg, 1 eq. | C(C)(=O)OCCCCCCCCCCCCC1=C(CCCC1(C)C)C | C23H42O2
reactant | water | 0.8 ml | O | H2O
reactant | t-BuOOH | 1.26 ml, 10 eq. | C(C)(C)(C)OO | C4H10O2
solvent | cyclohexane | 6 ml | C1CCCCC1 | C6H12
catalyst | ruthenium trichloride hydrate | 1.3 mg | O.[Ru](Cl)(Cl)Cl
product | 3-(12-acetoxydodecyl)-2,4,4-trimethyl-2-cyclohexen-1-one | 227 mg, 53% | C(C)(=O)OCCCCCCCCCCCCC1=C(C(CCC1(C)C)=O)C | C23H40O3
